US08623859B2
N-(4-{[3-(Dimethylamino)pyrrolidin-1-yl]methyl}benzyl)-5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-N-methyl-1,3,4-oxadiazole-2-carboxamide
The title compound was prepared according to general procedure AT using methyl 5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-1,3,4-oxadiazole-2-carboxylate (30 mg, 0.08 mmol), N,N-dimethyl-1-{4-[(methylamino)methyl]benzyl}pyrrolidin-3-amine (32 mg, 0.13 mmol) and trimethylaluminium (2 M in toluene, 0.08 mL) in DCE (5 mL). A portion of the crude product was purified using prep method D to afford the title compound.

reactant | methyl 5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-1,3,4-oxadiazole-2-carboxylate | 0.08 mmol, 30 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=NN=C(O1)C(=O)OC)C | C15H19N3O6S
reactant | N,N-dimethyl-1-{4-[(methylamino)methyl]benzyl}pyrrolidin-3-amine | 0.13 mmol, 32 mg | CN(C1CN(CC1)CC1=CC=C(C=C1)CNC)C | C15H25N3
reactant | trimethylaluminium | 2 M, 0.08 mL | C[Al](C)C
solvent | DCE | 5 mL | ClCCCl | C2H4Cl2
product | N-(4-{[3-(Dimethylamino)pyrrolidin-1-yl]methyl}benzyl)-5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-N-methyl-1,3,4-oxadiazole-2-carboxamide | CN(C1CN(CC1)CC1=CC=C(CN(C(=O)C=2OC(=NN2)CN(C)S(=O)(=O)C2=C(C=C(C=C2C)OC)C)C)C=C1)C | C29H40N6O5S
